US07592457B2
4,6-dibromo-2-(2-phenyl-propionylamino)-benzoic acid methyl ester
The objective compound was prepared by the same procedure for the intermediate 1, using a 2-phenyl-propionic acid (2.00 g, 13.3 mmol), SOCl2 (3.47 mL, 40.0 mmol), and 2-amino-4,6-dibromo-benzoic acid methyl ester (2.74 g, 8.88 mmol). After normal workup, the pure objective compound (3.60 g, 92%) was obtained as white solid by a flash column chromatography (n-hexane:EtOAc=20:1): 1H NMR (200 MHz, CDCl3) δ 1.60 (d, J=7.3 Hz, 3H, CH3), 3.65-3.75 (m, 4H, CO2CH3 & CH) 7.24-7.44 (m, 5H, ArH), 7.48 (d, J=2.0 Hz, 1H, ArH), 8.55 (d, J=2.0 Hz, 1H, ArH), 8.68 (br s, 1H, NH).

reactant | 2-phenyl-propionic acid | 13.3 mmol, 2.00 g | C1(=CC=CC=C1)C(C(=O)O)C | C9H10O2
reactant | SOCl2 | 40.0 mmol, 3.47 mL | O=S(Cl)Cl | Cl2OS
reactant | 2-amino-4,6-dibromo-benzoic acid methyl ester | 8.88 mmol, 2.74 g | COC(C1=C(C=C(C=C1Br)Br)N)=O | C8H7Br2NO2
reactant | n-hexane | CCCCCC | C6H14
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4,6-dibromo-2-(2-phenyl-propionylamino)-benzoic acid methyl ester | 3.60 g, 92% | COC(C1=C(C=C(C=C1Br)Br)NC(C(C)C1=CC=CC=C1)=O)=O | C17H15Br2NO3
